US09315510B2
2.1 Preparation of 5,15-bis-(4-carboxyphenyl)-10,20-dihexyl-porphyrin
In a typical experiment, a solution of KOH (200 mg, 3.6 mmol) in methanol (1 ml) was added to a stirred solution of 5,15-dihexyl-10,20-bis-(4-methoxycarbonylphenyl)-porphyrin (31 mg, 0.04 mmol) in THF (8 ml) and the reaction mixture was stirred for 2 d. Water (50 ml) and hydrochloric acid were then added until the pH was adjusted to 4-6. The aqueous layer was extracted with dichloromethane (2×100 ml) and the organic layer was separated, washed with water until neutral and dried over sodium sulfate. The solvent was evaporated and the title compound 5,15-bis-(4-carboxyphenyl)-10,20-dihexyl-porphyrin was obtained after recrystallization from dichloromethane/aqueous methanol (26 mg, 87%).

reactant | KOH | 3.6 mmol, 200 mg | [OH-].[K+]
reactant | 5,15-dihexyl-10,20-bis-(4-methoxycarbonylphenyl)-porphyrin | 0.04 mmol, 31 mg | C(CCCCC)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)C(=O)OC)N3)CCCCCC)=N2)C2=CC=C(C=C2)C(=O)OC | C48H50N4O4
reactant | Water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 5,15-bis-(4-carboxyphenyl)-10,20-dihexyl-porphyrin | C(=O)(O)C1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)CCCCCC)N3)C3=CC=C(C=C3)C(=O)O)=N2)CCCCCC | C46H46N4O4
